US09169203B2
Step 1: Synthesis of hexyl 2-hydroxy-4-(methylthio)butanoate.
To a 4 neck 1 L round bottom flask fitted with a reflux condenser, dean stark trap, thermocouple, and mechanical overhead stirrer was added 2-hydroxy-4-(methylthio)butanoic acid (100 g, 666 mmol, obtained for example by stirring Alimet over activated charcoal, filtering and concentrating in a rotovap), 1-hexanol (125.4 mL, 999 mmol), sodium hydrogen sulfate (1.60 g, 13.32 mmol), and toluene (500 mL). The reaction was heated to reflux with removal of water (20 mL) during the course of about 5.5 hours and the reaction was monitored by GC analysis. The reaction was cooled to room temperature overnight and the organic layer was washed with saturated NaHCO3 (1×250 mL), DI water (1×250 mL) and brine (2×250 mL), dried over sodium sulfate, filtered and evaporated to give a brown oil (253.3 g). The oil was purified by kugelrohr distillation at 100° C. and 0.1 Torr vacuum to give a colorless oil (100.0 g, 64.1%). m/z 257 (MNa+).

reactant | 2-hydroxy-4-(methylthio)butanoic acid | OC(C(=O)O)CCSC | C5H10O3S
reactant | Alimet | CSCCC(C(=O)O)O | C5H10O3S
reactant | charcoal | C | CH4
reactant | 1-hexanol | 999 mmol, 125.4 mL | C(CCCCC)O | C6H14O
reactant | sodium hydrogen sulfate | 13.32 mmol, 1.60 g | S(=O)(=O)(O)[O-].[Na+]
solvent | water | 20 mL | O | H2O
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | hexyl 2-hydroxy-4-(methylthio)butanoate | 253.3 g | OC(C(=O)OCCCCCC)CCSC | C11H22O3S
